US07595324B2
2-Chloro-4-(mesityloxy)thieno[3,2-d]pyrimidine
A stirred suspension of NaH (7.8 mg, 0.19 mmol) in dry THF (1 mL) was added 2,4,6-trimethyl phenol (26.4 mg, 0.19 mmol) and stirred at room temperature for 30 min under Argon. The reaction mixture was added to a solution of 2,4-dichlorothieno[3,2-d]pyrimidine (39.6 mg, 0.19 mmol) in dry THF (1 mL) at 0° C. and allow it to slowly warmed up to room temperature. After stirring the reaction for 4 h, the resulting mixture was diluted with water and washed with EtOAc. The combined organic layers were washed with water, brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography, eluting with hexanes/ethyl acetate (9:1) to give the product as a white solid (32.4 mg, 56%):

reactant | NaH | 0.19 mmol, 7.8 mg | [H-].[Na+]
reactant | 2,4,6-trimethyl phenol | 0.19 mmol, 26.4 mg | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | 0.19 mmol, 39.6 mg | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Chloro-4-(mesityloxy)thieno[3,2-d]pyrimidine | 32.4 mg, 56% | ClC=1N=C(C2=C(N1)C=CS2)OC2=C(C=C(C=C2C)C)C | C15H13ClN2OS
